US05521170
To a solution of 2-(4-methylphenyl)benzoic acid (240 mg) in dichloromethane (5 ml) was added oxalyl chloride (0.2 ml) and a few drop of N,N-dimethylformamide and the solution was stirred at 0° C. for 30 minutes. Dichloromethane was evaporated in vacuo to give a crude acid chloride as an oil. The crude acid chloride was added to a mixture of 1,5-bis(4-aminobenzoyl)-2,3,4,5-tetrhydro-1H-1,5-benzodiazepine (218 mg) and triethylamine (171 mg) in dichloromethane (5 ml) at 0° C. The mixture was stirred at ambient temperature for 18 hours, and then the resulting mixture was washed successively with 0.5N hydrochloric acid and saturated aqueous sodium bicarbonate solution. Drying, filtering and the removal of solvents afford a crude product. The crude product was subjected to silica gel column (eluent: 1% methanol in chloroform) to give 1,5-bis(4-[2-(4-methylphenyl)benzoylamino]-benzoyl}-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine (300 mg) as a white powder.

reactant | 2-(4-methylphenyl)benzoic acid | 240 mg | CC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1,5-bis(4-aminobenzoyl)-2,3,4,5-tetrhydro-1H-1,5-benzodiazepine | 218 mg | NC1=CC=C(C(=O)N2CCCN(C3=C2C=CC=C3)C(C3=CC=C(C=C3)N)=O)C=C1 | C23H22N4O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | triethylamine | 171 mg | C(C)N(CC)CC | C6H15N
product | 1,5-bis(4-[2-(4-methylphenyl)benzoylamino]-benzoyl}-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | 300 mg | CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCN(C4=C3C=CC=C4)C(C4=CC=C(C=C4)NC(C4=C(C=CC=C4)C4=CC=C(C=C4)C)=O)=O)C=C2)C=CC=C1 | C51H42N4O4
